US06476030B1
Ethyl 1,2,4-triazolo[1,5-a]pyrazine-2-carboxylate-3-oxide (prepared as described in J. Chem. Soc., Perkin Trans. 1, 1976, 2166) (2.0 g, 9.6 mmol) was stirred in triethyl phosphite (20 ml) at 100° C. for 1 h. The solvent was concentrated in vacuo, and the crude product was triturated with diethyl ether (50 ml). The precipitated solid was separated by filtration, and purified by flash chromatography on silica gel, eluting with 1:1 dichloromethane:ethyl acetate, yielding [1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester as a pale orange solid (420 mg). Data for the title compound: 1H NMR (360 MHz, CDCl3) δ 1.51 (3H, t, J=7.1 Hz), 4.59 (2H, q, J=7.1 Hz), 8.34 (1H, d, J=4.5 Hz), 8.63 (1H, d, J=4.5 Hz), 9.43 (1H, s); MS (ES+) m/e 193 [MH]+.

reactant | Ethyl 1,2,4-triazolo[1,5-a]pyrazine-2-carboxylate-3-oxide | 9.6 mmol, 2.0 g | N=1C(=[N+](N2C1C=NC=C2)[O-])C(=O)OCC | C8H8N4O3
solvent | triethyl phosphite | 20 ml | P(OCC)(OCC)OCC | C6H15O3P
product | [1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester | 420 mg | C(C)OC(=O)C1=NN2C(C=NC=C2)=N1 | C8H8N4O2
